US07910600B2
methyl 3-(cyclopropylamino)-5-phenylpyrimido[4,5-c]quinoline-8-carboxylate (1.0 eq, 81 mg, 0.219 mmol) was stirred in EtOH (3 ml) and 6N NaOH (1 ml) at 60° C. for 15 hours. Water was added and the mixture acidified using 6 N HCl. The solid was filtered, washed with water and dried. After trituration in MeOH and filtration, 3-(cyclopropylamino)-5-phenylpyrimido[4,5-c]quinoline-8-carboxylic acid was isolated as yellow solid (57 mg, 73% yield)). LCMS (ES): >95% pure, m/z 357 [M+1]+.

reactant | methyl 3-(cyclopropylamino)-5-phenylpyrimido[4,5-c]quinoline-8-carboxylate | 0.219 mmol, 81 mg, 1.0 eq | C1(CC1)NC=1N=CC2=C(C(=NC=3C=C(C=CC23)C(=O)OC)C2=CC=CC=C2)N1 | C22H18N4O2
reactant | NaOH | 6N, 1 ml | [OH-].[Na+]
reactant | Water | O | H2O
reactant | HCl | 6 N | Cl | ClH
solvent | EtOH | 3 ml | CCO | C2H6O
product | 3-(cyclopropylamino)-5-phenylpyrimido[4,5-c]quinoline-8-carboxylic acid | C1(CC1)NC=1N=CC2=C(C(=NC=3C=C(C=CC23)C(=O)O)C2=CC=CC=C2)N1 | C21H16N4O2
